US06818640B1
To a mixture of 2-(2-isopropylphenyl)imino-5,5-dimethyl-1,3-thiazine (0.26 g), triethylamine (0.15 g) and dichloromethane (5 ml) was added dropwise for 5 minutes ethyl chlorocarbonate (0.13 g). The mixture was stirred at room temperature for 2 hours. To the solution was added water (30 ml). The mixture was extracted with diethylether (60 ml), dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (n-hexane/ethyl acetate) to give 3-(ethoxycarbonyl)-2-(2-isopropylphenyl)imino-5,5-dimethyl-1,3-thiazine (0.23 g, yield: 68%) as a white crystal. M.p. 84-86° C.

reactant | 2-(2-isopropylphenyl)imino-5,5-dimethyl-1,3-thiazine | 0.26 g | C(C)(C)C1=C(C=CC=C1)N=C1SCC(C=N1)(C)C | C15H20N2S
reactant | triethylamine | 0.15 g | C(C)N(CC)CC | C6H15N
reactant | dichloromethane | 5 ml | ClCCl | CH2Cl2
reactant | ethyl chlorocarbonate | 0.13 g | C(OCC)(=O)Cl | C3H5ClO2
solvent | water | 30 ml | O | H2O
product | 3-(ethoxycarbonyl)-2-(2-isopropylphenyl)imino-5,5-dimethyl-1,3-thiazine | 0.23 g, yield: 68% | C(C)OC(=O)N1C(SCC(C1)(C)C)=NC1=C(C=CC=C1)C(C)C | C18H26N2O2S
